US04459306
11-(methoxycarbonyl methyl) [11H-dibenzo (b,e)-1,4-dioxepin]
27 g of 11-(methoxycarbonyl methylidene) dibenzo (b,e)-1,4-dioxepin (A or B isomer) were dissolved in 150 ml of methanol. The solution was purged with bubbling nitrogen, then 0.5 g of platinum dioxide were added. The mixture was hydrogenated under atmospheric pressure until the end of the absorption. The catalyst was filtered off and the methanol solution was half concentrated. The crystallization was started up, then the crystalline mixture was left at rest for 10 hours in a refrigerator. The crystalline mass was suctioned off and then dried under vacuum in a dessicator over phosphoric acid. There were obtained 13 g of a hydrogenated product (yield: 48%). The pure product, after recrystallization, melts at 72°-74° C.

reactant | 11-(methoxycarbonyl methylidene) dibenzo (b,e)-1,4-dioxepin | 27 g | COC(=O)C=C1C2=C(OC3=C(O1)C=CC=C3)C=CC=C2 | C16H12O4
solvent | methanol | 150 ml | CO | CH4O
product | 11-(methoxycarbonyl methyl) [11H-dibenzo (b,e)-1,4-dioxepin] | 13 g, yield: 48% | COC(=O)CC1C2=C(OC3=C(O1)C=CC=C3)C=CC=C2 | C16H14O4
